US04783461
A mixture of 4-hydrazino-1-phthalazin-acetonitrile (0.7 g), triethylamine (0.4 g), p-methoxybenzoylchloride (0.68 g), dioxane (10 ml), is heated at reflux for 5 h, then it is cooled, the solvent is evaporated under reduced pressure, the residue is taken up with water, recovered by filtration and crystallized from ethanol/chloroform, yielding 3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-acetonitrile. M.p. 252°-254° C.

reactant | 4-hydrazino-1-phthalazin-acetonitrile | 0.7 g | N(N)C1=NN=C(C2=CC=CC=C12)CC#N | C10H9N5
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
reactant | p-methoxybenzoylchloride | 0.68 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-acetonitrile | COC1=CC=C(C=C1)C1=NN=C2N1N=C(C1=CC=CC=C21)CC#N | C18H13N5O
